US07714168B2
A mixture of 1.0 g of 4-cyano-2-methoxyphenol, 0.6 g of 2,3-dimethyl-2-butanol and 9 ml of acetic acid was slowly added dropwise to 3 ml of concentrated sulfuric acid. The mixture obtained was stirred at room temperature for 2 hours. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was separated with aqueous sodium hydroxide solution and the aqueous layer obtained was acidified with dilute hydrochloric acid and extracted with ethyl acetate. The organic layer was concentrated under reduced pressure and the residue obtained was subjected to silica gel column chromatography to obtain 0.6 g of N-(1,1,2-trimethylpropyl)-4-hydroxy-3-methoxybenzamide. N-(1,1,2-trimethylpropyl)-4-hydroxy-3-methoxybenzamide:

reactant | 4-cyano-2-methoxyphenol | 1.0 g | C(#N)C1=CC(=C(C=C1)O)OC | C8H7NO2
reactant | 2,3-dimethyl-2-butanol | 0.6 g | CC(C)(C(C)C)O | C6H14O
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | Cl | ClH
solvent | Water | O | H2O
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
product | N-(1,1,2-trimethylpropyl)-4-hydroxy-3-methoxybenzamide | 0.6 g | CC(C(C)C)(C)NC(C1=CC(=C(C=C1)O)OC)=O | C14H21NO3
